US07037938B2
To a solution of ethyl 3-methoxy-4-[[(trifluoromethyl)sulfonyl]oxy]benzoate (1.52 g) in 1,4-dioxane (35 ml) was added bis(pinacolato)diboron (1.18 g), 1,1′-bis(diphenyl-phosphino)ferrocene-palladium(II)dichloridedichloromethane complex (1:1) (309 mg) and potassium acetate (1.36 g), and the mixture was stirred at 100° C. for 10 hours under nitrogen. The mixture was diluted with ethyl acetate and water. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=5/1) to give ethyl 3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (700 mg).

reactant | ethyl 3-methoxy-4-[[(trifluoromethyl)sulfonyl]oxy]benzoate | 1.52 g | COC=1C=C(C(=O)OCC)C=CC1OS(=O)(=O)C(F)(F)F | C11H11F3O6S
reactant | bis(pinacolato)diboron | 1.18 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.36 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 35 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | ethyl 3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 700 mg | COC=1C=C(C(=O)OCC)C=CC1B1OC(C(O1)(C)C)(C)C | C16H23BO5
